US05872135
Step F: N-(t-Butoxycarbonylpiperidin-2(S)-ylmethyl)-N-(1-naphthylmethyl) glycine
N-(t-Butoxycarbonylpiperidin-2(S)-ylmethyl)-N-(1-naphthylmethyl)glycine methyl ester (3.71 g, 8.7 mmol) was dissolved in MeOH (130 ml) in an ice-H2O bath, and 1N NaOH (43.5 ml, 43.5 mmol) was added. The mixture was stirred at ambient temperature for 5 h and concentrated. The resulting residue was dissolved in H2O (50 ml) and neutralized with 1N HCl (43.5 ml). The aqueous layer was washed with EtOAc (3×75 ml). The organic layers were combined, dried (MgSO4), filtered, and concentrated to give the title compound as a white foam.

reactant | N-(t-Butoxycarbonylpiperidin-2(S)-ylmethyl)-N-(1-naphthylmethyl)glycine methyl ester | 8.7 mmol, 3.71 g | COC(CN(CC1=CC=CC2=CC=CC=C12)C([C@H]1NCCCC1)C(=O)OC(C)(C)C)=O | C25H34N2O4
reactant | NaOH | 43.5 mmol, 1N, 43.5 ml | [OH-].[Na+]
solvent | MeOH | 130 ml | CO | CH4O
product | N-(t-Butoxycarbonylpiperidin-2(S)-ylmethyl)-N-(1-naphthylmethyl) glycine | C(C)(C)(C)OC(=O)C(N(CC(=O)O)CC1=CC=CC2=CC=CC=C12)[C@H]1NCCCC1 | C24H32N2O4
